US07214798B2
13.5. 2-(Methylamino)-2-oxoethyl 2-[1-(6-isobutyl-2-pyridyl)-4-piperidyl]ethyl-carbamate
The process is performed according to the procedure described in Example 1 (step 1.5). Starting with 0.72 g (2.08 mmol) of 3-{2-[1-(6-isobutyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, obtained in step 13.4, and 5.20 ml (10.40 mmol) of a solution (2M) of methylamine in tetrahydrofuran, and after chromatography on silica gel, eluting with a 95/5/0.5 mixture of dichloromethane, methanol and 28% aqueous ammonia, followed by crystallization from diisopropyl ether, 0.540 g of pure product is obtained in the form of a white solid.

reactant | 3-{2-[1-(6-isobutyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 2.08 mmol, 0.72 g | C(C(C)C)C1=CC=CC(=N1)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H27N3O3
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(Methylamino)-2-oxoethyl 2-[1-(6-isobutyl-2-pyridyl)-4-piperidyl]ethyl-carbamate | 10.40 mmol, 2M, 5.20 ml | C(C(C)C)C1=CC=CC(=N1)N1CCC(CC1)CCNC(OCC(=O)NC)=O | C20H32N4O3
